US06359138B1
(RS)-6-Methoxy-chroman-2-carboxylic acid (1.12 g, 5.37 mmol) and pyridinium hydrochloride (11.2 g, 96.6 mmol) were heated together at 180° C. for 2 hr under argon with stirring. After cooling to ambient temperature H2O (100 ml) and EtOAc (50 ml) was added and shaken. The aqueous phase was extracted with EtOAc (50 ml) and the combined organic extracts were washed with satd. NaCl solution (50 ml) and then dried with Na2SO4 and evaporated to afford (RS)-6-hydroxy-chroman-2-carboxylic acid as white crystals (0.94 g, 4.84 mmol, 90%) Mp. 175-177° C., MS m/e=194.1 (M+).

reactant | (RS)-6-Methoxy-chroman-2-carboxylic acid | 5.37 mmol, 1.12 g | COC=1C=C2CCC(OC2=CC1)C(=O)O | C11H12O4
reactant | pyridinium hydrochloride | 96.6 mmol, 11.2 g | Cl.[NH+]1=CC=CC=C1
reactant | H2O | 100 ml | O | H2O
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
product | (RS)-6-hydroxy-chroman-2-carboxylic acid | 4.84 mmol, 0.94 g, 90% | OC=1C=C2CCC(OC2=CC1)C(=O)O | C10H10O4
